US06897306B2
Ethyl 5-{(1R)-4-cyclohexyl-1-[2-(hydroxyamino)-2-oxoethyl]butyl}-1,2,4-oxadiazole-3-carboxylate
A solution of (3R)-6-cyclohexyl-3-[3-(ethoxycarbonyl)-1,2,4-oxadiazol-5-yl]hexanoic acid (Preparation 4) (140 mg, 0.41 mmol) and N,N-diisopropylethylamine (320 μl, 2.07 mmol) in N,N-dimethylformamide (5 ml) was treated with O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (235 mg, 0.61 mmol) and the resulting solution was stirred at room temperature under a nitrogen atmosphere for 30 minutes. Hydroxylamine hydrochloride (113 mg, 0.61 mmol) was then added and the mixture was stirred at room temperature for 20 hours. The mixture was poured into hydrochloric acid (1M, 20 ml) and extracted with ethyl acetate (×3). The combined organic layers were washed sequentially with a saturated aqueous solution of sodium hydrogen carbonate and brine, dried over anhydrous sodium sulphate, filtered and the solvent removed under reduced pressure. The residue was purified by column chromatography on silica gel eluting with a gradient system of dichloromethane:methanol (99.5:0.5) gradually changing to dichloromethane:methanol (97:3) to afford the title compound as a yellow oil (62 mg).

reactant | (3R)-6-cyclohexyl-3-[3-(ethoxycarbonyl)-1,2,4-oxadiazol-5-yl]hexanoic acid | 0.41 mmol, 140 mg | C1(CCCCC1)CCC[C@H](CC(=O)O)C1=NC(=NO1)C(=O)OCC | C17H26N2O5
reactant | N,N-diisopropylethylamine | 2.07 mmol, 320 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.61 mmol, 235 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | Hydroxylamine hydrochloride | 0.61 mmol, 113 mg | Cl.NO
reactant | hydrochloric acid | 1M, 20 ml | Cl | ClH
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | Ethyl 5-{(1R)-4-cyclohexyl-1-[2-(hydroxyamino)-2-oxoethyl]butyl}-1,2,4-oxadiazole-3-carboxylate | 62 mg | C1(CCCCC1)CCC[C@H](CC(=O)NO)C1=NC(=NO1)C(=O)OCC | C17H27N3O5
